US04378371
34 g of 4-hydroxy-1,1,2,5,7-pentamethyl-indane, 14.3 g of methyl isocyanate and a few drops of triethylamine were dissolved in 102 ml of ligroin and the solution was stirred under slight reflux (about 70° C.) overnight. After cooling to 30° C., the mixture was stirred with 40 ml of water and the colorless crystals were filtered off and dried. Recrystallization from ligroin and toluene gave 27.7 g of N-methyl-carbamic acid 1,1,2,5,7-pentamethylindan-4-yl ester of melting point 130.5°-131° C.

reactant | 4-hydroxy-1,1,2,5,7-pentamethyl-indane | 34 g | OC1=C2CC(C(C2=C(C=C1C)C)(C)C)C | C14H20O
reactant | methyl isocyanate | 14.3 g | CN=C=O | C2H3NO
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
solvent | water | 40 ml | O | H2O
product | N-methyl-carbamic acid 1,1,2,5,7-pentamethylindan-4-yl ester | 27.7 g | CC1(C(CC2=C(C(=CC(=C12)C)C)OC(NC)=O)C)C | C16H23NO2
